US07354932B2
Preparation of (3,5-dichloro-pyridin-4-yl)-(3-hydroxymethyl-piperidin-1-yl)-methanone
To a suspension of 3,5-dichloroisonicotinic acid (250 mg, 1.30 mmol) in CH2Cl2 (6.5 mL) was added DMF (cat.) and oxalyl chloride (0.45 mL, 5.2 mmol), and the mixture was stirred at room temperature for 2 h then concentrated in vacuo. To the residue was added THF (2 mL), Et3N (0.27 mL, 1.9 mmol), and a solution of 3-piperidinemethanol (150 mg, 1.30 mmol) in THF (4.5 mL), and the mixture was stirred at room temperature for 21 h. The mixture was diluted with CH2Cl2 (50 mL) and brine (30 mL) and the phases were separated. The organic layer was washed with brine (2×50 mL) and saturated NaHCO3 (2×50 mL). The organic layer was dried (MgSO4), filtered, concentrated, and dried in vacuo to afford a crude oil. Purification of the crude material by column chromatography on silica gel (100:5:1 CH2Cl2/MeOH/NH4OH) gave a yellow oil (mixture of isomers) (147 mg, 39%). 1H NMR (CDCl3) δ 1.28-1.96 (m, 4H), 2.89-3.26 (m, 3H), 3.35-3.45 (m, 1H), 3.50-3.72 (m, 2H), 4.29-4.56 (m, 1H), 8.54 (m, 2H).

reactant | 3,5-dichloroisonicotinic acid | 1.30 mmol, 250 mg | ClC1=C(C(=O)O)C(=CN=C1)Cl | C6H3Cl2NO2
reactant | oxalyl chloride | 5.2 mmol, 0.45 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Et3N | 1.9 mmol, 0.27 mL | CCN(CC)CC | C6H15N
reactant | 3-piperidinemethanol | 1.30 mmol, 150 mg | N1CC(CCC1)CO | C6H13NO
solvent | CH2Cl2 | 6.5 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | brine | 30 mL | [Cl-].[Na+].O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
product | (3,5-dichloro-pyridin-4-yl)-(3-hydroxymethyl-piperidin-1-yl)-methanone | ClC=1C=NC=C(C1C(=O)N1CC(CCC1)CO)Cl | C12H14Cl2N2O2
